US06063810
13.8 ml (119.6 mmol) of 2-bromophenol, 25 g (119.6 mmol) of ethyl 2-bromopentanoate, 19.8 g (143.3 mmol) of potassium carbonate, 19.8 g (119.6mmol) of potassium iodide and 210 ml of N,N-dimethylformamide are introduced into a 1 l three-necked flask equipped with a reflux condenser. The mixture is heated at 45° C. for 16 hours. 600 ml of water are added and extraction is carried out with ethyl acetate (3×300 ml). The combined organic phases are washed with 200 ml of a molar sodium hydroxide solution, 2×200 ml of water and 300 ml of brine. They are then dried over sodium sulphate, filtered and concentrated under vacuum and the residue is purified by silica flash chromatography (cyclohexane elution) to give 28.5 g (79%) of ethyl 2-(2-bromophenoxy)pentanoate in the form of an oil.

reactant | 2-bromophenol | 119.6 mmol, 13.8 ml | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | ethyl 2-bromopentanoate | 119.6 mmol, 25 g | BrC(C(=O)OCC)CCC | C7H13BrO2
reactant | potassium carbonate | 143.3 mmol, 19.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 119.6mmol, 19.8 g | [I-].[K+]
solvent | water | 600 ml | O | H2O
solvent | N,N-dimethylformamide | 210 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-bromophenoxy)pentanoate | 28.5 g, 79% | BrC1=C(OC(C(=O)OCC)CCC)C=CC=C1 | C13H17BrO3
